US06974802B2
c) (S)-(+)-2-(N-CBz-L-valyloxy)propionic acid.
To a solution of 4-methoxybenzyl (S)-(+)-2-(N-CBz-L-valyloxy)propionate (14.0 g, 31.5 mmole) in dichloromethane (50 ml) was added trifluoroacetic acid (25 ml) and the solution was stirred for five hours at room temperature. The solution was evaporated under reduced pressure and coevaporated two times with toluene. The product was isolated by silica gel column chromatography. Yield: 9.4 g=92%

reactant | 4-methoxybenzyl (S)-(+)-2-(N-CBz-L-valyloxy)propionate | 31.5 mmole, 14.0 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)O[C@H](C(=O)OCC1=CC=C(C=C1)OC)C | C24H29NO7
reactant | trifluoroacetic acid | 25 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (S)-(+)-2-(N-CBz-L-valyloxy)propionic acid | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)O[C@H](C(=O)O)C | C16H21NO6
